US04835291
Synthesis of 3,3-bis[2-(p-dimethylaminophenyl)-2-(p-ethoxyphenyl)ethenyl]-4,5,6,7-tetrachlorophthalide
Into a mixture of 25 ml of acetic anhydride and 75 ml of o-dichlorobenzene, 13.4 g of 1-(p-ethoxyphenyl)-1-(p-dimethylaminophenyl)ethylene (melting at 110°-111° C.) and 21.5 g of tetrachlorophthalic anhydride were added and the mixture was stirred for 6 hours at 120° C. After adding the reaction mixture into 200 ml of water and making the mixture alkaline by sodium hydroxide, the alkaline mixture was extracted with 70 ml of toluene. The solid matter obtained by distilling off toluene from the extract was recrystallized from acetone while purifying with activated carbon to obtain 16.2 g of pale yellow crystals in a yield of 80.8%.

reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(p-ethoxyphenyl)-1-(p-dimethylaminophenyl)ethylene | 13.4 g | C(C)OC1=CC=C(C=C1)C(=C)C1=CC=C(C=C1)N(C)C | C18H21NO
reactant | tetrachlorophthalic anhydride | 21.5 g | ClC=1C(=C(C(=C2C1C(=O)OC2=O)Cl)Cl)Cl | C8Cl4O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
solvent | o-dichlorobenzene | 75 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3,3-bis[2-(p-dimethylaminophenyl)-2-(p-ethoxyphenyl)ethenyl]-4,5,6,7-tetrachlorophthalide | 16.2 g, yield of 80.8% | CN(C1=CC=C(C=C1)C(=CC1(OC(=O)C2=C(C(=C(C(=C12)Cl)Cl)Cl)Cl)C=C(C1=CC=C(C=C1)N(C)C)C1=CC=C(C=C1)OCC)C1=CC=C(C=C1)OCC)C | C44H40Cl4N2O4
